US08623887B2
cis-(±)-2-amino-cyclopentanecarboxylic acid-isopropylamide
55 mg (0.43 mmol) cis-(±)-2-amino-cyclopentanecarboxylic acid are suspended in 900 μL (25 eq) isopropylamine and 205 mg (0.064 mmol, 1.5 eq) TBTU and 550 μL DMF are added. The mixture is stirred for 16 h and the reaction mixture is taken up in DCM/MeOH/NH3(aq) 9/1/0.1 and combined with 7 mL silica gel. After all the volatile constituents have been eliminated in vacuo the residue is chromatographed (silica gel DCM/MeOH/NH3 9/1/0.1). 63 mg of the title compound are obtained.

reactant | cis-(±)-2-amino-cyclopentanecarboxylic acid | 0.43 mmol, 55 mg | N[C@@H]1[C@@H](CCC1)C(=O)O | C6H11NO2
reactant | isopropylamine | 900 μL, 25 eq | C(C)(C)N | C3H9N
reactant | TBTU | 0.064 mmol, 205 mg, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DMF | 550 μL | CN(C)C=O | C3H7NO
solvent | DCM MeOH NH3 | C(Cl)Cl.CO.N
product | cis-(±)-2-amino-cyclopentanecarboxylic acid-isopropylamide | 63 mg | C(C)(C)NC(=O)[C@H]1[C@H](CCC1)N | C9H18N2O
